US07214824B2
34(a): 3-butoxy-4-tert-butylphenyl tert-butyl carbonate
tert-Butyl 4-tert-butyl-3-hydroxyphenyl carbonate (1.5 g, 5.6 mmol), n-butanol (0.5 mL, 5.4 mmol), triphenylphosphine (1.3 g, 5.0 mmol) and diethyl azodicarboxylate (DEAD) (0.78 mL, 5.0 mmol) were treated in the same procedure described in Example 31(a). The crude residue was applied to a silica gel chromatography column and eluted with a volume mixture of hexane and ethyl acetate (19/1 to 9/1) to furnish 964 mg (66% yield) of the title compound as a colorless oil.

reactant | tert-Butyl 4-tert-butyl-3-hydroxyphenyl carbonate | 5.6 mmol, 1.5 g | C(OC(C)(C)C)(OC1=CC(=C(C=C1)C(C)(C)C)O)=O | C15H22O4
reactant | n-butanol | 5.4 mmol, 0.5 mL | C(CCC)O | C4H10O
reactant | triphenylphosphine | 5.0 mmol, 1.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 5.0 mmol, 0.78 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 3-butoxy-4-tert-butylphenyl tert-butyl carbonate | 964 mg, 66% yield | C(OC1=CC(=C(C=C1)C(C)(C)C)OCCCC)(OC(C)(C)C)=O | C19H30O4
